US07491722B2
5-Acetyl-4-[(5-bromoquinolin-8-yl)amino]-2-ethyl-6-phenylpyridazin-3(2H)-one
To a stirred solution of 40 mg (0.139 mmol) of 5-acetyl-2-ethyl-4-nitro-6-phenylpyridazin-3(2H)-one (Dal Piaz, V et al, J. Med. Chem. 1997, 40, 1417) in ethanol (4 mL), 8-amino-5-bromoquinoline (47 mg, 0.209 mmol) was added. The resulting mixture was stirred at room temperature for five days and heated at 50° C. during four days. The solvent was evaporated and the residue purified by column chromatography (silica gel, hexane/ethyl acetate 4:1) to yield the title compound (16 mg, 25% yield).

reactant | 5-acetyl-2-ethyl-4-nitro-6-phenylpyridazin-3(2H)-one | 0.139 mmol, 40 mg | C(C)(=O)C1=C(C(N(N=C1C1=CC=CC=C1)CC)=O)[N+](=O)[O-] | C14H13N3O4
reactant | 8-amino-5-bromoquinoline | 0.209 mmol, 47 mg | NC=1C=CC(=C2C=CC=NC12)Br | C9H7BrN2
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 5-Acetyl-4-[(5-bromoquinolin-8-yl)amino]-2-ethyl-6-phenylpyridazin-3(2H)-one | 16 mg, 25% yield | C(C)(=O)C1=C(C(N(N=C1C1=CC=CC=C1)CC)=O)NC=1C=CC(=C2C=CC=NC12)Br | C23H19BrN4O2
